US07084154B2
A solution of cis-2-[4-(3-chlorophenyl)-but-3-enyl]-isoindole-1,3-dione (5.7 g) and hydrazine hydrate (1.8 mL) in ethanol (180 mL) was heated at reflux for 16 h. The solution was allowed to cool to rt and the volatiles were removed in vacuo. The resulting residue was dissolved in 2 M sodium hydroxide and extracted three times with ethyl acetate. The organic layers were combined, washed with brine, dried over magnesium sulfate and reduced in vacuo to yield cis-4-(3-chlorophenyl)-but-3-enylamine (2.5 g).

reactant | cis-2-[4-(3-chlorophenyl)-but-3-enyl]-isoindole-1,3-dione | 5.7 g | ClC=1C=C(C=CC1)\C=C/CCN1C(C2=CC=CC=C2C1=O)=O | C18H14ClNO2
reactant | hydrazine hydrate | 1.8 mL | O.NN
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | cis-4-(3-chlorophenyl)-but-3-enylamine | 2.5 g | ClC=1C=C(C=CC1)\C=C/CCN | C10H12ClN
